US06794395B1
3-(1-methoxy-1-phenyl-methylidene)-5,6-methylenedioxy-2-indolinone
Under a nitrogen atmosphere 4.5 g of diethyl-1-methoxybenzylphosphonate (according to Burkhouse, D.; Zimmer, H.; Synthesis 1984, 330) are dissolved in 40 ml of absolute dimethylformamide and at −40° C. 4.0 g of potassium-tert-butoxide are added batchwise and stirred for 15 minutes at −10° C. 3.0 g of 5,6-methylenedioxyisatin (according to Lackey, K.; Sternbach, D. D.; Synthesis 1993, 993) are added to the clear solution and stirred for 1 hour at ambient temperature. After this time the mixture is poured into 20 ml of ice-cold saturated potassium hydrogen sulphate solution and extracted with ethyl acetate. The ethyl acetate phase is washed with water, dried over sodium sulphate and concentrated by evaporation. Finally the residue is separated through a silica gel column with toluene/ethyl acetate (5:1). The product obtained can be recrystallised from ether.

reactant | diethyl-1-methoxybenzylphosphonate | 4.5 g | C(C)C(C1(CC=CC=C1)OC)(P([O-])([O-])=O)CC
reactant | potassium-tert-butoxide | 4.0 g | CC(C)([O-])C.[K+]
reactant | 5,6-methylenedioxyisatin | 3.0 g | C1OC=2C=C3C(C(NC3=CC2O1)=O)=O | C9H5NO4
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3-(1-methoxy-1-phenyl-methylidene)-5,6-methylenedioxy-2-indolinone | COC(C1=CC=CC=C1)=C1C(NC2=CC3=C(C=C12)OCO3)=O | C17H13NO4
